US07838524B2
4-{3-tert-Butyl-5-[({[4-(pyridin-4-yloxy)-phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl}-N-(2-pyrrolidin-1-ylethyl)benzamide
To a solution of 2-pyrrolidin-1-yl-ethylamine in DCE was added trimethyl aluminum (1.03 mmol, 0.51 mL of 2N solution in DCM). After the reaction was stirred at ambient temperature for 30 minutes, a solution of 4-(3-tert-butyl-5-{3-[4-(pyridin-4-yloxy)phenyl]ureido}pyrazol-1-yl}benzoic acid methyl ester (100 mg, 0.21 mmol) in DCE was added, and the reaction mixture was stirred at 80° C. for 16 h. The reaction mixture was quenched with two drops of water, dried over MgSO4, filtered, and evaporated at reduced pressure. Purification using MPLC (eluting with 15% NH3 in MeOH (2N)/EtOAc) afforded 34 mg (29%) of the title compound. 1H-NMR (acetone-d6) δ 8.43 (d, J=9.0 Hz, 2H), 7.94 (d, J=9.0 Hz, 2H), 7.69 (d, J=9.0 Hz, 2H), 7.60 (d, J=9.0 Hz, 2H), 7.07 (d, J=9.0 Hz, 2H), 6.84 (d, J=4.0 Hz, 2H), 6.48 (s, 1H), 3.52 (t, J=7.5 Hz, 2H), 2.67 (t, J=3.0 Hz, 2H), 2.50 to 2.64 (m, 4H), 1.70 to 1.72 (m, 4H), 1.31 (s, 9H); MS LC-MS [M+H]+=568, RT=2.48 min.

reactant | 2-pyrrolidin-1-yl-ethylamine | N1(CCCC1)CCN | C6H14N2
reactant | trimethyl aluminum | 1.03 mmol, 2N, 0.51 mL | C[Al](C)C
reactant | 4-(3-tert-butyl-5-{3-[4-(pyridin-4-yloxy)phenyl]ureido}pyrazol-1-yl}benzoic acid methyl ester | 0.21 mmol, 100 mg | COC(C1=CC=C(C=C1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C(C)(C)C)=O | C27H27N5O4
solvent | DCE | ClCCCl | C2H4Cl2
product | 4-{3-tert-Butyl-5-[({[4-(pyridin-4-yloxy)-phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl}-N-(2-pyrrolidin-1-ylethyl)benzamide | 34 mg, 29% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC=C(C(=O)NCCN2CCCC2)C=C1 | C32H37N7O3
